US07943788B2
3-Bromo-1-(5-methylbenzo[b]thiophen-2-ylmethyl)benzene
5-Methylbenzo[b]thiophene and 3-bromobenzaldehyde were treated in a manner similar to Reference Example 7 to give the target compound.

reactant | 5-Methylbenzo[b]thiophene | CC1=CC2=C(SC=C2)C=C1 | C9H8S
reactant | 3-bromobenzaldehyde | BrC=1C=C(C=O)C=CC1 | C7H5BrO
product | 3-Bromo-1-(5-methylbenzo[b]thiophen-2-ylmethyl)benzene | BrC=1C=C(C=CC1)CC1=CC2=C(S1)C=CC(=C2)C | C16H13BrS
